### PR TITLE
[Merged by Bors] - chore(AlgebraicGeometry): remove unnecessary uses of `Hom.base`

### PR DESCRIPTION
**Pull request by chrisflav**
The locations were found by a linter, that flagged every occurrence of the chain `DFunLike.coe`, `CategoryTheory.ConcreteCategory.hom` , `AlgebraicGeometry.PresheafedSpace.Hom.base`, `AlgebraicGeometry.LocallyRingedSpace.Hom.toHom` , `AlgebraicGeometry.Scheme.Hom.toLRSHom'` and an explicit `.base` projection.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/SurjectiveOnStalks.lean [hunk 1]
```diff
@@ -157,7 +157,7 @@ lemma isEmbedding_pullback {X Y S : Scheme.{u}} (f : X ⟶ S) (g : Y ⟶ S) [Sur
     refine ⟨is, ix, iy, ⟨x, hx⟩, ⟨y, hy⟩⟩
   let 𝓤 := (Scheme.Pullback.openCoverOfBase 𝒰 f g).bind
     (fun i ↦ Scheme.Pullback.openCoverOfLeftRight (𝒱 i) (𝒲 i) _ _)
-  refine isEmbedding_of_iSup_eq_top_of_preimage_subset_range _ ?_ U this _ (fun i ↦ (𝓤.f i).base)
+  refine isEmbedding_of_iSup_eq_top_of_preimage_subset_range _ ?_ U this _ (fun i ↦ (𝓤.f i))
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/SurjectiveOnStalks.lean]:
```suggestion
  refine isEmbedding_of_iSup_eq_top_of_preimage_subset_range _ ?_ U this _ (fun i ↦ 𝓤.f i)
```
or even `(𝒰.f ·)`

File: Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean [hunk 2]
```diff
@@ -86,25 +86,25 @@ instance surjective_isZariskiLocalAtTarget : IsZariskiLocalAtTarget @Surjective
...
 
 lemma Surjective.sigmaDesc_of_union_range_eq_univ {X : Scheme.{u}}
     {ι : Type v} [Small.{u} ι] {Y : ι → Scheme.{u}} {f : ∀ i, Y i ⟶ X}
-    (H : ⋃ i, Set.range (f i).base = Set.univ) : Surjective (Limits.Sigma.desc f) := by
+    (H : ⋃ i, Set.range (f i) = Set.univ) : Surjective (Limits.Sigma.desc f) := by
   refine ⟨fun x ↦ ?_⟩
   simp_rw [Set.eq_univ_iff_forall, Set.mem_iUnion] at H
   obtain ⟨i, x, rfl⟩ := H x
-  use (Limits.Sigma.ι (fun i ↦ Y i) i).base x
+  use Limits.Sigma.ι (fun i ↦ Y i) i x
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean]:
```suggestion
  use Limits.Sigma.ι Y i x
```
Does this not work?

File: Mathlib/AlgebraicGeometry/Morphisms/UniversallyClosed.lean [hunk 3]
```diff
@@ -116,35 +116,35 @@ lemma compactSpace_of_universallyClosed
   have hZ : IsClosed Z := by
     simp only [Z, isClosed_compl_iff, Opens.coe_iSup, Opens.coe_inf, Opens.map_coe]
     exact isOpen_iUnion fun i ↦ (fT.continuous.1 _ (Ti i).2).inter (p.continuous.1 _ (U i).2)
-  let Zc : T.Opens := ⟨(fT.base '' Z)ᶜ, (fT.isClosedMap _ hZ).isOpen_compl⟩
+  let Zc : T.Opens := ⟨(fT '' Z)ᶜ, (fT.isClosedMap _ hZ).isOpen_compl⟩
   let ψ : MvPolynomial 𝒰.I₀ K →ₐ[K] K := MvPolynomial.aeval (fun _ ↦ 1)
-  let t : T := (Spec.map <| CommRingCat.ofHom ψ.toRingHom).base default
+  let t : T := (Spec.map <| CommRingCat.ofHom ψ.toRingHom) default
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/UniversallyClosed.lean]:
```suggestion
  let t : T := Spec.map (CommRingCat.ofHom ψ.toRingHom) default
```

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 4]
```diff
@@ -168,12 +168,12 @@ lemma Scheme.Pullback.range_diagonal_subset_diagonalCoverDiagonalRange :
...
-  let i := 𝒰.idx (f.base x)
-  obtain ⟨y : 𝒰.X i, hy : (𝒰.f i).base y = f.base x⟩ := 𝒰.covers (f.base x)
+  let i := 𝒰.idx (f x)
+  obtain ⟨y : 𝒰.X i, hy : 𝒰.f i y = f x⟩ := 𝒰.covers (f x)
   obtain ⟨z, hz₁, hz₂⟩ := exists_preimage_pullback _ _ hy.symm
   let j := (𝒱 i).idx z
-  obtain ⟨w : (𝒱 i).X j, hy : ((𝒱 i).f j).base w = z⟩ := (𝒱 i).covers z
-  refine ⟨i, j, (pullback.diagonal ((𝒱 i).f j ≫ pullback.snd f (𝒰.f i))).base w, ?_⟩
+  obtain ⟨w : (𝒱 i).X j, hy : (𝒱 i).f j w = z⟩ := (𝒱 i).covers z
+  refine ⟨i, j, (pullback.diagonal ((𝒱 i).f j ≫ pullback.snd f (𝒰.f i))) w, ?_⟩
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean]:
```suggestion
  refine ⟨i, j, pullback.diagonal ((𝒱 i).f j ≫ pullback.snd f (𝒰.f i)) w, ?_⟩
```

File: Mathlib/AlgebraicGeometry/Morphisms/Descent.lean [hunk 5]
```diff
@@ -47,7 +47,7 @@ lemma Scheme.exists_hom_isAffine_of_isZariskiLocalAtSource (X : Scheme.{u}) [Com
   let p : ∐ (fun i : 𝒰.I₀ ↦ 𝒰.X i) ⟶ X := Sigma.desc (fun i ↦ 𝒰.f i)
   refine ⟨_, p, ⟨fun x ↦ ?_⟩, ?_, inferInstance⟩
   · obtain ⟨i, x, rfl⟩ := X.affineCover.finiteSubcover.exists_eq x
-    use (Sigma.ι (fun i ↦ X.affineCover.finiteSubcover.X i) i).base x
+    use Sigma.ι (fun i ↦ X.affineCover.finiteSubcover.X i) i x
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/Descent.lean]:
```suggestion
    use Sigma.ι X.affineCover.finiteSubcover.X i x
```
Also why is it not just this?

File: Mathlib/AlgebraicGeometry/IdealSheaf/Basic.lean [hunk 6]
```diff
@@ -728,8 +728,8 @@ lemma Hom.support_ker (f : X.Hom Y) [QuasiCompact f] :
         MorphismProperty.pullback_snd _ _ inferInstance
       have := this (𝒰.pullbackHom f i) ⟨_, rfl⟩
         ((coe_support_inter _ ⟨⊤, isAffineOpen_top _⟩).ge ⟨?_, Set.mem_univ x⟩).1
-      · have := image_closure_subset_closure_image (f := (𝒰.f i).base)
-          (𝒰.f i).base.1.2 (Set.mem_image_of_mem _ this)
+      · have := image_closure_subset_closure_image (f := (𝒰.f i))
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/IdealSheaf/Basic.lean]:
```suggestion
      · have := image_closure_subset_closure_image (f := 𝒰.f i)
```

File: Mathlib/AlgebraicGeometry/Cover/Directed.lean [hunk 7]
```diff
@@ -66,7 +66,7 @@ lemma trans_comp {i j k : 𝒰.I₀} (hij : i ⟶ j) (hjk : j ⟶ k) :
 
 lemma exists_lift_trans_eq {i j : 𝒰.I₀} (x : (pullback (𝒰.f i) (𝒰.f j)).carrier) :
     ∃ (k : 𝒰.I₀) (hki : k ⟶ i) (hkj : k ⟶ j) (y : 𝒰.X k),
-      (pullback.lift (𝒰.trans hki) (𝒰.trans hkj) (by simp)).base y = x :=
+      (pullback.lift (𝒰.trans hki) (𝒰.trans hkj) (by simp)) y = x :=
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Cover/Directed.lean]:
```suggestion
      pullback.lift (𝒰.trans hki) (𝒰.trans hkj) (by simp) y = x :=
```

File: Mathlib/AlgebraicGeometry/Cover/Directed.lean [hunk 8]
```diff
@@ -45,7 +45,7 @@ class LocallyDirected (𝒰 : X.Cover (precoverage P)) [Category 𝒰.I₀] wher
   w {i j : 𝒰.I₀} (hij : i ⟶ j) : trans hij ≫ 𝒰.f j = 𝒰.f i := by aesop_cat
   directed {i j : 𝒰.I₀} (x : (pullback (𝒰.f i) (𝒰.f j)).carrier) :
     ∃ (k : 𝒰.I₀) (hki : k ⟶ i) (hkj : k ⟶ j) (y : 𝒰.X k),
-      (pullback.lift (trans hki) (trans hkj) (by simp [w])).base y = x
+      (pullback.lift (trans hki) (trans hkj) (by simp [w])) y = x
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Cover/Directed.lean]:
```suggestion
      pullback.lift (trans hki) (trans hkj) (by simp [w]) y = x
```

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 9]
```diff
@@ -153,8 +153,8 @@ lemma exists_mem_of_isClosed_of_nonempty'
     (hZne : ∀ i hij, (Z i hij).Nonempty)
     (hZcpt : ∀ i hij, IsCompact (Z i hij))
     (hstab : ∀ (i i' : I) (hi'i : i' ⟶ i) (hij : i ⟶ j),
-      Set.MapsTo (D.map hi'i).base (Z i' (hi'i ≫ hij)) (Z i hij)) :
-    ∃ (s : c.pt), ∀ i hij, (c.π.app i).base s ∈ Z i hij := by
+      Set.MapsTo (D.map hi'i) (Z i' (hi'i ≫ hij)) (Z i hij)) :
+    ∃ (s : c.pt), ∀ i hij, (c.π.app i) s ∈ Z i hij := by
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]:
```suggestion
    ∃ (s : c.pt), ∀ i hij, c.π.app i s ∈ Z i hij := by
```

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 10]
```diff
@@ -102,8 +102,8 @@ lemma exists_mem_of_isClosed_of_nonempty
     (hZc : ∀ (i : I), IsClosed (Z i))
     (hZne : ∀ i, (Z i).Nonempty)
     (hZcpt : ∀ i, IsCompact (Z i))
-    (hmapsTo : ∀ {i i' : I} (f : i ⟶ i'), Set.MapsTo (D.map f).base (Z i) (Z i')) :
-    ∃ (s : c.pt), ∀ i, (c.π.app i).base s ∈ Z i := by
+    (hmapsTo : ∀ {i i' : I} (f : i ⟶ i'), Set.MapsTo (D.map f) (Z i) (Z i')) :
+    ∃ (s : c.pt), ∀ i, (c.π.app i) s ∈ Z i := by
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]:
```suggestion
    ∃ (s : c.pt), ∀ i, c.π.app i s ∈ Z i := by
```

**Comment by joelriou** [comment]
Thanks!

bors merge
